US08293746B2
Step 21.2: 2-Fluoro-4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine
A suspension of 1-[2-(3-fluoro-4-nitro-phenoxy)-ethyl]-pyrrolidine (1.96 g, 7.7 mmol) and 10% palladium on carbon (0.2 g) in MeOH (40 mL) is stirred for 0.5 h at RT, under a hydrogen atmosphere. The reaction mixture is filtered through a pad of celite and concentrated to provide the title compound. ESI-MS: 225.1 [MH]; tR=0.95 min (system 1).

reactant | 1-[2-(3-fluoro-4-nitro-phenoxy)-ethyl]-pyrrolidine | 7.7 mmol, 1.96 g | FC=1C=C(OCCN2CCCC2)C=CC1[N+](=O)[O-] | C12H15FN2O3
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
solvent | MeOH | 40 mL | CO | CH4O
product | 2-Fluoro-4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine | FC1=C(C=CC(=C1)OCCN1CCCC1)N | C12H17FN2O
